US08119809B2
To a stirred mixture of 6-chloropyridine-3-sulfonyl chloride (1 g, 4.717 mmol) in anhydrous dichloromethane (5 mL) was added triethylamine (790 μl, 5.66 mmol), and tert-butyl 4-aminopiperidine-1-carboxylate (945 mg, 4.717 mmol). The mixture was stirred at room temperature overnight and then poured into water. The resulting solids were collected by filtration to yield 1.7 g (99%) of tert-butyl 4-(6-chloropyridine-3-sulfonamido)piperidine-1-carboxylate as a white solid. 1H-NMR (CDCl3, 300 MHz): δ 9.82 (s, 1H), 8.11 (dd, 1H), 7.43 (d, 1H), 4.62 (d, 1H), 3.91 (m, 2H), 3.36 (m, 1H), 2.80 (m, 2H), 3.97 (m, 1H), 1.81 (m, 2H), 1.40 (s, 9H), 1.18 (m, 2H); LCMS: MS (m/z): 376 (MH+).

reactant | 6-chloropyridine-3-sulfonyl chloride | 4.717 mmol, 1 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | triethylamine | 5.66 mmol, 790 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 4.717 mmol, 945 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(6-chloropyridine-3-sulfonamido)piperidine-1-carboxylate | 1.7 g, 99% | ClC1=CC=C(C=N1)S(=O)(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C15H22ClN3O4S
